US05720840
To a solution of 66.3 g of aminopropyl triethoxy silane in 200 ccs of ether, a solution of 13.6 g of acryloyl chloride in 100 ccs of ether was added dropwise at 0° C. The white precipitate of aminopropyl triethoxy silane hydrochloride formed was filtered off by suction whereupon the ether filtrate was concentrated by evaporation and the residue was distilled.

reactant | aminopropyl triethoxy silane | 66.3 g | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
reactant | acryloyl chloride | 13.6 g | C(C=C)(=O)Cl | C3H3ClO
solvent | ether | CCOCC | C4H10O
product | aminopropyl triethoxy silane hydrochloride | Cl.NCCC[Si](OCC)(OCC)OCC | InChI=1S/C9H23NO3Si.ClH/c1-4-11-14(12-5-2,13-6-3)9-7-8-10;/h4-10H2,1-3H3;1H
